US06627660B1
Preparation of 2-trimethylsilylethyl Carbonochloridate (Teoc-Cl)
To a solution of 2-trimethylsilylethanol (5.0 g, 42.3 mmol) in dichloromethane (35 mL) at 0° C. was added triethylamine (4.7 g, 46.5 mmol). To this stirred solution was added dropwise a solution of triphosgene (4.40 g, 14.8 mmol) in dichloromethane (15 mL); a white precipitant was formed immediately. The mixture was stirred at low temperature for 15 minutes, the ice bath removed, and the mixture was stirred for an additional 1 hour at room temperature. After 1 hour, the white precipitant was filtered and washed with dichloromethane (˜60 mL). The combined filtrate and washings were concentrated. The resultant oily carbonochloridate was used without further purification.

reactant | 2-trimethylsilylethanol | 42.3 mmol, 5.0 g | C[Si](CCO)(C)C | C5H14OSi
reactant | triethylamine | 46.5 mmol, 4.7 g | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 14.8 mmol, 4.40 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-trimethylsilylethyl Carbonochloridate | C(OCC[Si](C)(C)C)(=O)Cl | C6H13ClO2Si
